US04853476
N-[(S)2-[[bis(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]β-alanine ethyl ester;
N-[(S)2-[[hydroxy(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]β-alanine ethyl ester, calcium salt thereof;

reactant | N-[(S)2-[[hydroxy(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]β-alanine ethyl ester | C(C)OC(CCNC([C@H](CC1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)O)=O)=O | C21H26NO7P
reactant | calcium | [Ca] | Ca
product | N-[(S)2-[[bis(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]β-alanine ethyl ester | C(C)OC(CCNC([C@H](CC1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C28H32NO7P
